US03991045
In 2 ml of water was dissolved 300 mg (1.25 m-mols) of 1-β-D-arabinofuranosylcytosine (molecular weight 243) and after adding to the solution 30 ml of dioxane (molecular weight 88) and 1427 mg (2.47 m-mols) of nonadecanoic anhydride (molecular weight 578), the mixture was heated to 80° C to dissolve the solid materials. After stirring the solution for 5 hours at 80° C, the reaction mixture was allowed to cool and the precipitates formed were recovered by filtration, washed sufficiently with water, and dried. Then the precipitates were added to n-hexane followed by refluxing. After cooling, the precipitates were collected by filtration and recrystallized from ethyl acetate to provide 638 mg (1.22 m-mols) of N4 -nonadecanoyl-1-β-D-arabinofuranosylcytosine (molecular weight 523) at a yield of 99.2% with a melting point of 139° to 142° C.

reactant | 1-β-D-arabinofuranosylcytosine | 300 mg | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | nonadecanoic anhydride | 1427 mg | C(CCCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCCC)=O | C38H74O3
solvent | water | 2 ml | O | H2O
product | N4 -nonadecanoyl-1-β-D-arabinofuranosylcytosine | 638 mg, yield of 99.2% | C(CCCCCCCCCCCCCCCCCC)(=O)NC1=NC(N(C=C1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)=O | C28H49N3O6
